US09278968B2
To a solution of 403 mg of (S)—N-[(2R)-2-(3-bromophenyl)-1-{[tert-butyl(dimethyl)silyl]oxy}propan-2-yl]-2-methylpropane-2-sulfinamide in 4 ml of THF was added 1.4 ml of a 1.63 M n-butyllithium/hexane solution at −78° C., followed by stirring for 30 minutes, and then 283 μl of methyl chloroformate was added dropwise thereto, followed by stirring for 1 hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 280 mg of methyl 3-[(6R,8S)-2,2,3,3,6,9,9-heptamethyl-8-oxo-4-oxa-8λ4-thia-7-aza-3-siladecan-6-yl]benzoate.

reactant | (S)—N-[(2R)-2-(3-bromophenyl)-1-{[tert-butyl(dimethyl)silyl]oxy}propan-2-yl]-2-methylpropane-2-sulfinamide | 403 mg | BrC=1C=C(C=CC1)[C@@](CO[Si](C)(C)C(C)(C)C)(C)N[S@@](=O)C(C)(C)C | C19H34BrNO2SSi
reactant | n-butyllithium hexane | 1.63 M | C(CCC)[Li].CCCCCC
reactant | methyl chloroformate | 283 μl | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | methyl 3-[(6R,8S)-2,2,3,3,6,9,9-heptamethyl-8-oxo-4-oxa-8λ4-thia-7-aza-3-siladecan-6-yl]benzoate | 280 mg | CC(C)([Si](OC[C@@](N[S@](C(C)(C)C)=O)(C)C=1C=C(C(=O)OC)C=CC1)(C)C)C | C21H37NO4SSi
